Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / ibuprofen / Humalog
 
Attending: ___.
 
Chief Complaint:
RLE DVT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with known protein C def, recurrent ___ on coumadin (& 
lovenox d/t low INRs), DM2, & PVD s/p L ___ bypass (vein 
graft) & L ___ toe amp 7 wks ago who p/w RLE DVT.

 
Past Medical History:
Type II DM, poorly controlled
DVT/PE on Coumadin (goal INR 2.5-3.5)
Tobacco abuse
Type 2 protein C deficiency
HLD
Lower extremity neuropathy
Chronic back pain from car accident in ___
HLD
CTEPH - s/p PTE at ___ in ___

___: Left superficial femoral artery to posterior
tibial artery bypass with in-situ vein, left fourth toe
amputation, angioscopy with lysis of valves.
 
Social History:
___
Family History:
Mother had recurrent ___, died of pancreatic cancer in her ___
but clots started in her ___. Father had PE around age ___ and
told patient he had Factor V Leiden. Grandfather with lung
cancer. There is no known family history of pulmonary
hypertension.
 
Physical Exam:
MR. ___ presented to the ED with RLE edema and pain, with US 
showing DVT in the limb. He was admitted to the vascular surgery 
service floor. Hemetology was consulted for anti-coagulation 
recommendations given his acute DVT and known Protein-C 
deficiency. Following heme consult recommendations, warfarin was 
discontinued, he was started on lovenox 80mg BID. He will 
continue at this dose until follow up with his outpatient 
hematologist. 

While, admitted, US duplex of graft was performed which revealed 
that the graft was occluded. He was also noted to have a 
dehiscent wound in anterior left leg, from previous bypass 
surgical site. The wound did not look infected and was managed 
routinely with wet-to-dry dressings. 

He was discharged home on ___. At discharge, he was 
tolerating a regular diet, ambulating at baseline levels, his 
presenting complaint of leg pain was much improved. He will 
continue at this dose until follow up with his outpatient 
hematologist who can then decided when and what dose of coumadin 
he should be on. He will also follow up with Dr. ___ in the 
vascular surgery clinic about the occluded graft. These 
intructions were conveyed to the patient who verbalized 
understanding.
 
Pertinent Results:
___ 03:23PM   ___ PTT-68.9* ___
___ 08:27AM   ___ PTT-51.6* ___
___ 01:33AM   ___ PTT-40.4* ___
___ 05:48PM   LACTATE-1.0
___ 05:36PM   GLUCOSE-415* UREA N-10 CREAT-0.5 SODIUM-132* 
POTASSIUM-4.2 CHLORIDE-93* TOTAL CO2-25 ANION GAP-14
___ 05:36PM   estGFR-Using this
___ 05:36PM   WBC-8.0 RBC-4.62 HGB-13.2* HCT-39.6* MCV-86 
MCH-28.6 MCHC-33.3 RDW-13.0 RDWSD-40.1
___ 05:36PM   NEUTS-59.3 ___ MONOS-7.9 EOS-5.3 
BASOS-0.8 IM ___ AbsNeut-4.74 AbsLymp-2.09 AbsMono-0.63 
AbsEos-0.42 AbsBaso-0.06
___ 05:36PM   PLT COUNT-195
___ 05:36PM   ___ PTT-27.9 ___
 
Brief Hospital Course:
___ who presented with RLE DVT. He was previously on Coumadin 
but was subtherapeutic and more recently on lovenox while that 
level was being adjusted.
Hematology was consulted and recommended a higher dose of 
lovenox 80 BID, followed by Coumadin after ___ weeks with a goal 
INR of 2.5-3.5. They suggested he follow up with his outpatient 
hematologist given this was the patient's preference. His right 
leg was wrapped with ace bandage and elevated. Edema was 
improved and he was in minimal pain at the time of discharge. We 
suggested he continue this at home for symptomatic comfort.

His blood sugars were also very high (300s) and his insulin 
regimen was adjusted to 20 lantus at night followed by 8 of 
novolog with meals and additional novolog (sliding scale) 2 
units for every 50 mg/dL above 150 mg/dL.

His left leg (bypass) was not symptomatic though his pulse exam 
was different from prior (weak Doppler signal at ___, faint 
signal over graft) and as such an arterial duplex was obtained 
demonstrating graft occlusion. We discussed that may require 
revision depending on his symptoms, and that for now 
anticoagulation would be appropriate as his leg is not 
threatened. He will see Dr. ___ in clinic next week for 
further discussion.

The full recommendations from hematology and 
___ services are reprinted here: 

HEMATOLOGY RECOMMENDATIONS (Dr. ___:
- We agree with anticoagulation with IV heparin for now.  In 
case
there are no vascular interventions planned, we would recommend
switching to subcutaneous enoxaparin at dose of 1 mg/kg every 12
hours. We will recommend rounding off his dose to 80 mg every 12
hours (rather than 70 mg).
- We recommend anti-coagulation with only enoxaparin for the 
next
___ weeks and holding warfarin during this time period.
- We recommend follow-up with his hematologist at ___ weeks
interval when he can be transitioned to warfarin for INR goal of
2.5-3.5. He will need overlap of warfarin with enoxaparin until
his INR is therapeutic on two successive blood draws which are 
at
least 24 hours apart.
He expressed preference to follow-up with his outside hospital
hematologist, with whom he has a new patient appointment
scheduled in the next few weeks.  We strongly emphasized
importance of attending that follow-up appointment.
- We will not recommend direct oral anticoagulants for this
gentleman due to inability to monitor drug levels and history of
recurrent ___.
- We will sign off for now. Please feel free to contact us with
any questions or concerns.

He was also seen by the ___ service for 
uncontrolled blood sugars (in 300s). They recommended a new 
regimen:

___ NOTE: 
Increase to 20 units lantus q24 hours
Start fixed dose Novolog 8 units with meals (hold if not eating)
Novolog sliding scale, 2u per 50 mg/dL over 150mg/dL.

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Metoprolol Tartrate 25 mg PO BID  
4.  Enoxaparin Sodium 80 mg SC Q12H  
5.  Glargine 20 Units Bedtime
novolog 8 Units Breakfast
novolog 8 Units Lunch
novolog 8 Units Dinner 
6.  Atorvastatin 40 mg PO QPM  
7.  Cyclobenzaprine 5 mg PO TID:PRN pain/spasms  
8.  FLUoxetine 40 mg PO DAILY  
9.  Gabapentin 600 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Extensive DVT right leg
Graft thrombosis left bypass graft

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for pain and swelling in your right leg. This 
was found to be due to a large clot in your deep vein (common 
femoral) down to your calf veins. You were seen by the 
hematology service who recommended a higher dose of lovenox 
(enoxaparin) for increased blood thinning to treat this.

You were also suspected based on our physical exam to have a 
clot in your bypass graft on your left leg. This was confirmed 
based on arterial ultrasound. This may ultimately need to be 
treated or revised, but for now the lovenox (enoxaparin) is 
optimal for it to settle down some bit.
 
Followup Instructions:
___